US05208247
4-Methyl-N-(2-pyridinylmethyl)benzenesulfonamide
To a 0° C. solution of 15.0 g of 2-(aminomethyl)pyridine, 15.44 g of triethylamine and 150 ml of methylene chloride is added 29.1 g of p-toluenesulfonyl chloride in 100 ml of methylene chloride. The reaction mixture is allowed to warm to room temperature and is stirred for 4.5 hours. The solution is poured into saturated sodium bicarbonate and extracted with methylene chloride. The combined organic layers are washed with saturated sodium chloride, dried and concentrated in vacuo. The residue is purified by column chromatography (silica gel: 50% ethyl acetate/hexane 20% methyl alcohol/ethyl acetate); then recrystallized from ethyl acetate/hexane to give 25.9 g of the desired product as colorless crystals.

reactant | 2-(aminomethyl)pyridine | 15.0 g | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 15.44 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 29.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-Methyl-N-(2-pyridinylmethyl)benzenesulfonamide | 25.9 g | CC1=CC=C(C=C1)S(=O)(=O)NCC1=NC=CC=C1 | C13H14N2O2S
